US05047534
A 22 g quantity of 4-benzyloxybenzyl chloride was treated with diethyl methylmalonate anion following the procedure in Example 8. The alkylated methylmalonate was saponified and decarboxylated following the same procedure to obtain 18.06 g of 2-(4-benzyloxybenzyl)propionic acid, m p. 93°-95° C. A 3.6 g quantity of this acid was treated with 5,6-diamino-1,3-dipropyluracil to obtain the amide and was cyclized following the procedure in Example 7 to obtain 1.46 g of material which was recrystallized from 5% ethyl ether in hexane to yield 0.72 g of 3,7-dihydro-8-[methyl-2-(4-benzyloxyphenyl)ethyl]-1,3-dipropyl-1H-purine-2,6-dione, m.p. 124°-126° C. A 260 mg quantity of 3,7-dihydro-8-[methyl-2-(4-benzyloxyphenyl)ethyl]-1,3-dipropyl-1H-purine-2,6-dione was dissolved in 20 ml of methyl alcohol and treated with a catalytic amount of 5% palladium on charcoal. This was placed under an atmosphere of hydrogen for 2 hours with stirring. It was then filtered through Celite and the filtrate concentrated under vacuum. The residue was purified by radial chromatography (50% ethyl acetate in hexane, 4 mm plate) to yield 182 mg of material which was triturated with 5% ethyl ether in hexane to yield, after drying under high vacuum at 39° C. for 3 hours, 162 mg of 3,7-dihydro-8-[methyl-2-(4-hydroxyphenyl)ethyl]-1,3-dipropyl-1H-purine-2,6-dione, m.p. 218°-220° C.

reactant | 4-benzyloxybenzyl chloride | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | diethyl methylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
product | 2-(4-benzyloxybenzyl)propionic acid | 18.06 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)O)C)C=C1 | C17H18O3
